US04820834
5-(2-Fluorophenyl)-2,5-dihydro-3-((((1-methylethyl)amino)carbonyl)amino)-2-oxo-1H-1,4-benzodiazepine-1-acetic acid ethyl ester
Equimolar amounts of 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one and isoproplylisocyanate were mixed in 8 ml of dry tetrahydrofuran at room temperature. The reaction mixture was allowed to stand for 8 hours and was then filtered. The collected solids were washed with tetrahydrofuran and dried in vacuo over P2O5 to give the analytical product: m.p. 155°-157° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC(=O)OCC)=O | C19H18FN3O3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 5-(2-Fluorophenyl)-2,5-dihydro-3-((((1-methylethyl)amino)carbonyl)amino)-2-oxo-1H-1,4-benzodiazepine-1-acetic acid ethyl ester | C(C)OC(CN1C(C(=NC(C2=C1C=CC=C2)C2=C(C=CC=C2)F)NC(=O)NC(C)C)=O)=O | C23H25FN4O4
